US08247415B2
Step A: Ethyl(3-{[(benzyloxy)carbonyl]amino}phenyl)acetate
To a solution of methyl (3-aminophenyl)acetate (25 g, 140 mmol) in 250 mL anhydrous DCM was added DIEA (28.5 mL, 155 mmol) and the resulting solution cooled to 0° C. and set under nitrogen atmosphere. To this cooled solution was then added benzyl chloroformate (21.1 mL, 148 mmol) and the resulting mixture stirred overnight allowing to warm to room temperature. The reaction was washed with 1 M HCl, water, and then brine. The organic layer was dried over sodium sulfate, filtered and concentrated under vacuum. No further purification was necessary and the material (44 g, 99%) was used as is for the next step reaction. LC-MS: m/z (ES) 314 (MH)+, 336 (MNa)−.

reactant | methyl (3-aminophenyl)acetate | 140 mmol, 25 g | NC=1C=C(C=CC1)CC(=O)OC | C9H11NO2
reactant | DIEA | 155 mmol, 28.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 148 mmol, 21.1 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(3-{[(benzyloxy)carbonyl]amino}phenyl)acetate | C(C)OC(CC1=CC(=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C18H19NO4
